US09359375B2
To a solution of (R)-2-(3-bromo-4-cyanophenylamino)-2-phenylacetic acid (90 mg, 0.27 mmol) and HOBt hydrate (62 mg, 0.40 mmol) in DMF (2 mL), EDC (74 mg, 0.38 mmol) was added. The mixture was stirred for 60 min. Then conc. NH4OH (0.100 mL, ˜1.40 mmol) was added. It was stirred for 18 h. Water and EtOAc were added. The organic phase was separated, washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give (R)-2-(3-bromo-4-cyanophenylamino)-2-phenylacetamide (78 mg).

reactant | (R)-2-(3-bromo-4-cyanophenylamino)-2-phenylacetic acid | 0.27 mmol, 90 mg | BrC=1C=C(C=CC1C#N)N[C@@H](C(=O)O)C1=CC=CC=C1 | C15H11BrN2O2
reactant | HOBt hydrate | 0.40 mmol, 62 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDC | 0.38 mmol, 74 mg
reactant | NH4OH | ˜1.40 mmol, 0.100 mL | [NH4+].[OH-]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | (R)-2-(3-bromo-4-cyanophenylamino)-2-phenylacetamide | 78 mg | BrC=1C=C(C=CC1C#N)N[C@@H](C(=O)N)C1=CC=CC=C1 | C15H12BrN3O
